* source EXP6_1
Q_Q1         N15216 N14388 0 Q2N4401
V_V1         N14441 0 10V
R_R1         N14388 N14441  220k TC=0,0 
R_R2         0 N14388  39k TC=0,0 
R_R3         N15216 N14441  2.7k TC=0,0 
Q_Q2         N16850 N16856 N17152 Q2N4401
R_R5         N16856 N16788  100k TC=0,0 
R_R4         N16850 N16788  1.8k TC=0,0 
V_V2         N16788 0 10V
R_R6         0 N16856  33k TC=0,0 
R_R7         0 N17152  0.2k TC=0,0 
